US03959280
To the mixture of 70 parts by volume of thionyl chloride and 125 parts by volume of dichloromethane was added 3.98 parts of N,N-dimethylformamide at 0°C. After the mixture was stirred at 0°C for 15 minutes, 8.55 parts of 1,3-dimethyl-6-aminouracil was added and then refluxed for 5.5 hours. The reaction mixture was concentrated to dryness under reduced pressure and the residue was dissolved in 200 parts by volume of chloroform. The solution was poured in 300 parts by volume of ice-water. After the water layer was neutralized with sodium hydrogen carbonate, the chloroform layer was taken and washed twice with 200 parts by volume portions each of water. The chloroform was distilled off under reduced pressure. The concentration residue was recrystallized from 80 parts by volume of methanol. The described procedure yielded 6.3 parts of 3-dimethylamino-5,7-dimethyl-isothiazolo(3,4-d)pyrimidine-4,6(5H, 7H)-dione as colorless needles melting at 150°-152°C.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 1,3-dimethyl-6-aminouracil | CN1C(=O)N(C(=O)C=C1N)C | C6H9N3O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-dimethylamino-5,7-dimethyl-isothiazolo(3,4-d)pyrimidine-4,6(5H, 7H)-dione | CN(C=1SN=C2N(C(N(C(C21)=O)C)=O)C)C | C9H12N4O2S
